US07173031B2
B) Methyl 1-(4-fluorophenyl)-5-nitro-2-oxo-1,2-dihydropyridine-3-carboxylate
A mixture of methyl 5-nitro-2-oxo-1,2-dihydropyridine-3-carboxylate (850 mg, 4.29 mmol), 4-fluorophenylboronic acid (1.40 g, 10 mmol, Combi-Blocks) and copper acetate (200 mg, 1.1 mmol) in pyridine (1 mL) and dioxane (20 mL) was stirred at 80° C. for 4 h. The reaction mixture was cooled to room temperature and diluted with a solution of ammonia. The solid was collected, washed with water and dried to afford the title compound (656 mg, 52%). 1H NMR (DMSO-d6) δ 8.95 (d, 1H, J=3.2 Hz), 8.80 (d, 1H, J=3.2 Hz), 7.40 (m, 2H), 7.25 (m, 2H), 3.95 (s, 3H); MS(ESI+) m/z 293 (M+H)+.

reactant | methyl 5-nitro-2-oxo-1,2-dihydropyridine-3-carboxylate | 4.29 mmol, 850 mg | [N+](=O)([O-])C=1C=C(C(NC1)=O)C(=O)OC | C7H6N2O5
reactant | 4-fluorophenylboronic acid | 10 mmol, 1.40 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | ammonia | N | H3N
catalyst | copper acetate | 1.1 mmol, 200 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | Methyl 1-(4-fluorophenyl)-5-nitro-2-oxo-1,2-dihydropyridine-3-carboxylate | 656 mg, 52% | FC1=CC=C(C=C1)N1C(C(=CC(=C1)[N+](=O)[O-])C(=O)OC)=O | C13H9FN2O5
